US06548677B1
Preparation of 3-(3-chloro-2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole
20 g (0.083 mol) of 3-(3,6-dichloro-2-methylphenyl)-4,5-dihydroisoxazole are dissolved in 120 ml of NMP. At 0° C., 6.7 g (0.09 mol) of sodium thiomethoxide are added over a period of 40 min, and the mixture is then stirred overnight. The reaction mixture is stirred into 360 ml of water and extracted four times with 70 ml of toluene, the combined organic phases are washed once with 70 ml of water and the organic phase is concentrated. The residue (an isomer mixture) is distilled at 150-170° C. under a reduced pressure of 1 mbar. The main fraction is purified chromatographically. This gives 4.5 g of a product which is 83% pure (17% of theory).

reactant | 3-(3,6-dichloro-2-methylphenyl)-4,5-dihydroisoxazole | 0.083 mol, 20 g | ClC=1C(=C(C(=CC1)Cl)C1=NOCC1)C | C10H9Cl2NO
reactant | sodium thiomethoxide | 0.09 mol, 6.7 g | C[S-].[Na+]
reactant | water | 360 ml | O | H2O
solvent | NMP | 120 ml | CN1CCCC1=O | C5H9NO
product | 3-(3-chloro-2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole | ClC=1C(=C(C(=CC1)SC)C1=NOCC1)C | C11H12ClNOS
